US08236806B2
1-(2-fluorophenyl)-4-(3-(1-(4-chlorophenyl)-3-propyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 169)
60 mg (82.3%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-(4-chlorophenyl)-3-propyl-1H-pyrazol-5-yl)propanal (45.74 mg, 0.165 mmol), 1-(2-fluorophenyl)piperazine (39.16 mL, 0.247 mmol), and NaBH(OAc)3 (198 mg, 0.936 mmol).

reactant | 3-(1-(4-chlorophenyl)-3-propyl-1H-pyrazol-5-yl)propanal | 0.165 mmol, 45.74 mg | ClC1=CC=C(C=C1)N1N=C(C=C1CCC=O)CCC | C15H17ClN2O
reactant | 1-(2-fluorophenyl)piperazine | 0.247 mmol, 39.16 mL | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | NaBH(OAc)3 | 0.936 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1-(4-chlorophenyl)-3-propyl-1H-pyrazol-5-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=C(C=C1)Cl)CCC | C25H30ClFN4
